US05998470
a) N-methyl-L-leucine methyl ester
N-methyl-L-leucine (1.3 g, 8.95 mmol) was dissolved in 4M HCl, 1,4-dioxane (10 mL) and methanol (10 mL). The solution was stirred overnight at room temperature, then concentrated to afford the title compound as a white solid (100%). MS (ESI): 160.0 (M+H)+.

reactant | N-methyl-L-leucine | 8.95 mmol, 1.3 g | CN[C@@H](CC(C)C)C(=O)O | C7H15NO2
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | methanol | 10 mL | CO | CH4O
solvent | HCl | 4M | Cl | ClH
product | N-methyl-L-leucine methyl ester | 100% | COC([C@@H](NC)CC(C)C)=O | C8H17NO2
